US07030267B2
To a solution of 1-cyano-spiro[2.4]heptane-1-carboxylic acid methyl ester (3.45 g, 19.3 mmol) in methanol (240 mL) was added cobalt chloride hexahydrate (CoCl2—6H2O) (9.16 g, 38.5 mmol) to give a deep purple colored solution. Sodium borohydride (7.30 g, 193 mmol) was added portionwise over 10 minutes with caution to control the evolution of hydrogen and the exothermic reaction that ensued to give a black solution. The reaction mixture was stirred for 30 minutes under nitrogen after the addition was completed. The reaction was quenched carefully by the addition of 0.5N HCl (1.3 L). The solution was made alkaline (pH˜9) by the addition of concentrated ammonium hydroxide. The mixture was extracted with ethyl acetate (4×400 mL). The combined organic layers were dried over sodium sulfate, filtered and evaporated to afford 3.07 g (87%) of 1-aminomethyl-spiro[2.4]heptane-1-carboxylic acid methyl ester as a yellow oil: 1H NMR (300 MHz, CDCl3) δ 0.74 (br d, 1H), 1.4–1.7 (m, 10H), 1.9 (m, 1H), 2.58 (d, J=13.8 Hz, 1H), 3.16 (d, J=13.8 Hz, 1H), 3.48 (s, 3H); MS (APCI) m/z 184 [M+H]+.

reactant | 1-cyano-spiro[2.4]heptane-1-carboxylic acid methyl ester | 19.3 mmol, 3.45 g | COC(=O)C1(CC12CCCC2)C#N | C10H13NO2
reactant | Sodium borohydride | 193 mmol, 7.30 g | [BH4-].[Na+]
reactant | hydrogen | [H][H] | H2
solvent | methanol | 240 mL | CO | CH4O
catalyst | cobalt chloride hexahydrate | 38.5 mmol, 9.16 g | O.O.O.O.O.O.[Co](Cl)Cl
product | 1-aminomethyl-spiro[2.4]heptane-1-carboxylic acid methyl ester | 3.07 g, 87% | COC(=O)C1(CC12CCCC2)CN | C10H17NO2
